US07723347B2
3-Methyl-1H-pyrrolo[2,3-b]pyridine 7-oxide
A little at a time, 3.00 g (22.70 mmol) of 3-methyl-1H-pyrrolo[2,3-b]pyridine (Hands, David; Bishop, Brian; Cameron, Mark; Edwards, John S.; Cottrell, Ian F.; Wright, Stanley H. B.; Synthesis 1996, 877-882.) are added to a solution of 10.45 g (45.40 mmol) of meta-chloroperoxybenzoic acid in 250 ml of dichloromethane, and the mixture is stirred at 10° C. for 2 h. Addition of methanol gives a clear solution which is subjected directly to column chromatography on silica gel (mobile phase: dichloromethane/methanol 100:4 to 3:1). A further purification step by preparative HPLC yields the target compound.

reactant | 3-methyl-1H-pyrrolo[2,3-b]pyridine | 22.70 mmol, 3.00 g | CC1=CNC2=NC=CC=C21 | C8H8N2
reactant | meta-chloroperoxybenzoic acid | 45.40 mmol, 10.45 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | methanol | CO | CH4O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 3-Methyl-1H-pyrrolo[2,3-b]pyridine 7-oxide | CC1=CNC2=[N+](C=CC=C21)[O-] | C8H8N2O
